US05552427
Preparation of N-(1-methylimidazol-2-yl)-4-methoxybenzylideneamine hydrochloride:
2-Amino-1-methylimidazole hydrochloride (0.3 g) was dissolved in ethanol (4 ml), and sodium methoxide (28% methanol solution: 0.5 ml) and p-anisaldehyde (0.34 g) were added. The mixture was heated at reflux overnight. The solvent was evaporated. The residue was purified by silica gel column chromatography (eluent: methanol-chloroform=5:95), and the solvent in the desired fraction was evaporated. The precipitated pale yellow prisms were separated by filtration using hexane. The resulting crystals were dissolved in chloroform, and 4N hydrochloric acid--ethyl acetate (0.22 ml) was added. The solvent was evaporated, and the precipitated pale yellow was separated by filtration using diethyl ether to give the title compound (0.17 g, 26.9%).

reactant | 2-Amino-1-methylimidazole hydrochloride | 0.3 g | Cl.NC=1N(C=CN1)C
reactant | sodium methoxide | 0.5 ml | C[O-].[Na+]
reactant | p-anisaldehyde | 0.34 g | C(C1=CC=C(C=C1)OC)=O | C8H8O2
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | N-(1-methylimidazol-2-yl)-4-methoxybenzylideneamine hydrochloride | 0.17 g, 26.9% | Cl.CN1C(=NC=C1)N=CC1=CC=C(C=C1)OC | InChI=1S/C12H13N3O.ClH/c1-15-8-7-13-12(15)14-9-10-3-5-11(16-2)6-4-10;/h3-9H,1-2H3;1H
